US05500427
a) Ethyl 5-(2'-cyanobiphenyl-4-yl)methylamino-1-methylpyrazole-4-carboxylate
To a solution of ethyl 5-amino-1-methylpyrazole-4-carboxylate (1.6 9 g) (P. Schmidt et al. Helv. Chim. Acta., 1959, 42, 349) in tetrahydrofuran (30 ml) was added at 0° C. sodium hydride (about 60% in oil, 0.48 g). The mixture was stirred for one hour at room temperature. To the reaction mixture was added portionwise at 0° C. 4-bromomethyl-2'-cyanobiphenyl (3.27 g). The mixture was stirred overnight at room temperature. The reaction mixture was poured into a saturated aqueous solution of ammonium chloride, which was extracted with ethyl acetate. The extract was washed with water and a saturated aqueous saline solution, followed by drying over magnesium sulfate. The solvent was distilled under reduced pressure to give crude crystals. Recrystallization from ethyl acetate-isopropyl ether afforded the title compound as colorless crystals (2.47 g, 69%), m.p. 107°-108° C.

reactant | ethyl 5-amino-1-methylpyrazole-4-carboxylate | 9 g | NC1=C(C=NN1C)C(=O)OCC | C7H11N3O2
reactant | sodium hydride | 0.48 g | [H-].[Na+]
reactant | 4-bromomethyl-2'-cyanobiphenyl | 3.27 g | BrCC1=CC=C(C=C1)C1=C(C=CC=C1)C#N | C14H10BrN
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | Ethyl 5-(2'-cyanobiphenyl-4-yl)methylamino-1-methylpyrazole-4-carboxylate | 2.47 g, 69% | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CNC1=C(C=NN1C)C(=O)OCC | C21H20N4O2
